US05554621
Example 7: 1,4-Dihydro-2,6-dimethyl-4-(3-nitrophenyl)-3,5-pyridinedicarboxylic acid, n-butyl methyl ester
A solution of n-butyl acetoacetate (0.10 mole), methyl 3-aminocrotonate (0.10 mole), 3-nitrobenzaldehyde (0.10 mole) and 150 mL of i-PrOH was refluxed overnight (18 h). The volatiles were removed in vacuo and the residue purified by flash chromatography (SiO2 : EtOAc/Hex) to furnish the product in 49% yield as low melting, yellow solid: mp 69°-70° C. Anal. Calcd for C20H24N2O6 : C, 61.85; H, 6.23; N, 7.21. Found: C, 62.02; H, 6.21; N, 6.95.

reactant | n-butyl acetoacetate | 0.10 mole | C(CC(=O)C)(=O)OCCCC | C8H14O3
reactant | methyl 3-aminocrotonate | 0.10 mole | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | 3-nitrobenzaldehyde | 0.10 mole | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
solvent | i-PrOH | 150 mL | CC(C)O | C3H8O
product | 1,4-Dihydro-2,6-dimethyl-4-(3-nitrophenyl)-3,5-pyridinedicarboxylic acid, n-butyl methyl ester | 49% yield | CC=1NC(=C(C(C1C(=O)OCCCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C20H24N2O6
